US06809108B1
N-{6-({(3R)-1-(2-methylbutyl)-3-piperidyl}methyl)amino-6-oxohexyl}-3,3,3-triphenylpropanamide
The title compound was prepared by a method similar to Step 3 of Example 17, using N-{6-{((3S)-3-piperidyl)methyl}amino-6-oxohexyl}-3,3,3-triphenylpropanamide and 2-methylbutanal. The compound was obtained as a white foamy substance.

reactant | N-{6-{((3S)-3-piperidyl)methyl}amino-6-oxohexyl}-3,3,3-triphenylpropanamide | N1C[C@H](CCC1)CNC(CCCCCNC(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C33H41N3O2
reactant | 2-methylbutanal | CC(C=O)CC | C5H10O
product | N-{6-({(3R)-1-(2-methylbutyl)-3-piperidyl}methyl)amino-6-oxohexyl}-3,3,3-triphenylpropanamide | CC(CN1C[C@H](CCC1)CNC(CCCCCNC(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O)CC | C38H51N3O2
